US08835419B2
Synthesis of (1R,3R)-3-(4-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-1-yl)cyclohexanecarboxamide (see FIG. 12)
A mixture of the 3-(4-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)-5,6-dihydropyridin-1(2H)-yl)cyclohexanecarboxamide (0.154 g, 0.20 mmol), palladium on carbon (Pd/C) (10% by weight, 0.05 g) in ethanol (7 mL) containing concentrated hydrochloric acid (4 drops) in a Paar shaker flask was hydrogenated at 25 psi for 1 h. The reaction mixture was diluted with ethanol, and filtered through Celite. The filtrate was concentrated in vacuo, and the resulting residue was purified by flash chromatography (SiO2, 5% triethylamine in ethyl acetate) to separate the desired isomer as a white solid (0.038 g, 0.075 mmol, 25%). 1H NMR (400 MHz, CD3OD) δ 7.45-7.41 (m, 2H), 7.26 (dd, J=2.0, 8.4 Hz, 1H), 7.21 (d, J=8.0 Hz, 1H), 6.57 (d, J=8.0 Hz, 1H), 6.21 (s, 1H), 4.99 (dd, J=6.8, 13.2 Hz, 1H), 3.76-3.71 (m, 1H), 3.53-3.52 (m, 3H), 3.20-3.12 (m, 2H), 2.99-2.93 (m, 1H), 2.71-2.65 (m, 1H), 2.47 (d, J=11.6 Hz, 1H), 2.35 (d, J=13.2 Hz, 1H), 2.18-2.10 (m, 2H), 1.99-1.82 (m, 6H), 1.68-1.74 (m, 1H), 1.64-1.51 (m, 6H); MS: (ES) m/z calculated for C26H33Cl3N3O [M+H]+508.2. found 508.4.

reactant | 3-(4-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)-5,6-dihydropyridin-1(2H)-yl)cyclohexanecarboxamide | 0.20 mmol, 0.154 g | ClC1=C(C=C(C=C1)C1=CCN(CC1)C1CC(CCC1)C(=O)N)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C26H30Cl3N3O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | ethanol | 7 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 4 drops | Cl | ClH
product | (1R,3R)-3-(4-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-1-yl)cyclohexanecarboxamide | ClC1=C(C=C(C=C1)C1CCN(CC1)[C@H]1C[C@@H](CCC1)C(=O)N)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C26H32Cl3N3O
